US07244730B2
(Step 1) [5-Acetyl-3-(tert-butyl)-2-methoxyanilino]methyl cyanide
Bromoacetonitrile (6 ml) and potassium carbonate (1.4 g) were added to a solution of 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone (2.0 g, 9.0 mmol) in dimethylformamide (50 ml) and the mixture was stirred at 70° C. for 3 hours. The reaction mixture was cooled to room temperature, ethyl acetate was added, washed was performed with water and brine in that order, the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (3.2 g) as a yellow oil.

reactant | Bromoacetonitrile | 6 ml | BrCC#N | C2H2BrN
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone | 9.0 mmol, 2.0 g | NC=1C=C(C=C(C1OC)C(C)(C)C)C(C)=O | C13H19NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [5-Acetyl-3-(tert-butyl)-2-methoxyanilino]methyl cyanide | 3.2 g | C(C)(=O)C=1C=C(C(=C(NCC#N)C1)OC)C(C)(C)C | C15H20N2O2
